US07645784B2
2-(7-Amino-1H-benzoimidazol-1-yl)-N-[3-(trifluoromethyl)phenyl]acetamide
To a solution of 2-(7-nitro-1H-benzoimidazol-1-yl)-N-[3-(trifluoromethyl)phenyl]acetamide, described above, (0.4 g, 1.1 mmol) in methanol (15 mL) 10% Pd/C (60 mg) was added. The mixture was hydrogenated at atmospheric pressure until the consumption of hydrogen ceased (1 h). The catalyst was removed by filtration through Celite, and the resulting clear solution was concentrated to dryness to yield the title compound, 0.36 g (99%). MS (ESI) m/z: 335.07 [M+H]. 1H NMR (400 MHz, DMSO-D6) δ ppm 4.91 (s, 2H) 5.33 (s, 2H) 6.50 (m, 1H) 6.89 (t, J=7.6 Hz, 1H) 6.97 (m, 1H) 7.41 (d, J=7.6 Hz, 1H) 7.56 (t, J=7.8 Hz, 1H) 7.77 (m, 1H) 7.99 (s, 1H) 8.07 (s, 1H) 10.84 (s, 1H).

reactant | 2-(7-nitro-1H-benzoimidazol-1-yl)-N-[3-(trifluoromethyl)phenyl]acetamide | [N+](=O)([O-])C1=CC=CC2=C1N(C=N2)CC(=O)NC2=CC(=CC=C2)C(F)(F)F | C16H11F3N4O3
solvent | methanol | 15 mL, 60 mg | CO | CH4O
product | 2-(7-Amino-1H-benzoimidazol-1-yl)-N-[3-(trifluoromethyl)phenyl]acetamide | NC1=CC=CC2=C1N(C=N2)CC(=O)NC2=CC(=CC=C2)C(F)(F)F | C16H13F3N4O
